US05856326
Step A: 2(S)-Butyl-4-(1-naphthoyl)-1-vinylsulfonylpiperazine
Chloroethylsulfonylchloride (0.038 mL, 0.314 mmol) was added to a solution of 3(S)-butyl-1-(1-naphthoyl)piperazine (0.095 g, 0.285 mmol) and diisopropylethylamine (0.119 mL, 0.685 mmol) in dichloromethane (3 mL). The reaction was stirred overnight under nitrogen, quenched with saturated sodium bicarbonate and extracted into ethyl acetate. After drying with magnesium sulfate, the title compound was isolated.

reactant | Chloroethylsulfonylchloride | 0.314 mmol, 0.038 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | 3(S)-butyl-1-(1-naphthoyl)piperazine | 0.285 mmol, 0.095 g | C(CCC)[C@H]1CN(CCN1)C(=O)C1=CC=CC2=CC=CC=C12 | C19H24N2O
reactant | diisopropylethylamine | 0.685 mmol, 0.119 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2(S)-Butyl-4-(1-naphthoyl)-1-vinylsulfonylpiperazine | C(CCC)[C@@H]1N(CCN(C1)C(=O)C1=CC=CC2=CC=CC=C12)S(=O)(=O)C=C | C21H26N2O3S
